US07612114B2
N-Ethyl-3-fluoro-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-4-(8-methyl-8-azabicyclo[3.2.1]oct-3-yloxy)benzamide
To a suspension of 60% sodium hydride (187 mg) in N,N-dimethylformamide (2 ml) was added tropine (599 mg) on an ice bath. The solution was stirred for 30 minutes while warming to room temperature. Synthesized from ethyl [5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine and 3,4-difluorobenzoyl chloride according to an analogous synthetic method to Preparation Example 87, a solution of N-ethyl-3,4-difluoro-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]benzamide (383 mg) in N,N-dimethylformamide (5 ml) was added the above solution followed by stirring overnight at 80° C. The reaction mixture was let to cool, then a saturated aqueous solution of sodium bicarbonate was added thereto, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous potassium carbonate, and then the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (chloroform-methanol system) to provide the title compound (143 mg).

reactant | sodium hydride | 187 mg | [H-].[Na+]
reactant | tropine | 599 mg | CN1C2CCC1CC(C2)O | C8H15NO
reactant | ethyl [5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | C(C)NC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C20H25NO2
reactant | 3,4-difluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
reactant | N-ethyl-3,4-difluoro-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]benzamide | 383 mg | C(C)N(C(C1=CC(=C(C=C1)F)F)=O)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C27H27F2NO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-Ethyl-3-fluoro-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-4-(8-methyl-8-azabicyclo[3.2.1]oct-3-yloxy)benzamide | 143 mg | C(C)N(C(C1=CC(=C(C=C1)OC1CC2CCC(C1)N2C)F)=O)C2=C(C=CC(=C2)OC)C2CC1=CC=C(C=C1CC2)OC | C35H41FN2O4
